US06555563B1
1-[4-Nitrophenyl]-2-[2-(phenyl)-1,3,4-thiadiazol-5-yl]-1H-imidazole
A mixture of 2-[2-(phenyl)-1,3,4-thiadiazol-5-yl]-1H-imidazole (0.285 g, 1.25 mmol), 1-fluoro-4-nitrobenzene (0.176 g, 1.25 mmol) and sodium carbonate (0.265 g, 2.50 mmol) in DMF (10 mL) was heated at 120° C. for 24 hours. The reaction mixture was cooled to room temperature and diluted with ethyl acetate and washed with water and brine. The combined organic fraction was dried (Na2SO4) and evaporated to dryness. The crude product was purified by chromatography on silica gel using hexane/ethyl acetate as an eluant to give the product (0.38 g, 87%) as a white solid; 1H NMR δ (DMSO-d6) 8.38 (2H, d, J=8.9 Hz), 7.98 (2H, dd, J=7.7, 1.6 Hz), 7.86 (2H, dd, J=8.8, 1.6 Hz), 7.81 (1H, s), 7.55 (3H, m), 7.43 (1H, dd, J=1.3 Hz); 13C NMR δ (DMSO-d6) 167.8, 159.1, 147.3, 142.6, 136.6, 131.6, 131.0, 129.5, 129.0, 128.1, 127.7, 126.2, 124.3; MS (m/z): 350.4 (M+, 100%).

reactant | 2-[2-(phenyl)-1,3,4-thiadiazol-5-yl]-1H-imidazole | 1.25 mmol, 0.285 g | C1(=CC=CC=C1)C=1SC(=NN1)C=1NC=CN1 | C11H8N4S
reactant | 1-fluoro-4-nitrobenzene | 1.25 mmol, 0.176 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | sodium carbonate | 2.50 mmol, 0.265 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[4-Nitrophenyl]-2-[2-(phenyl)-1,3,4-thiadiazol-5-yl]-1H-imidazole | 0.38 g, 87% | [N+](=O)([O-])C1=CC=C(C=C1)N1C(=NC=C1)C1=NN=C(S1)C1=CC=CC=C1 | C17H11N5O2S
